US07026134B2
The wells of an enhanced binding 96-well polystyrene microtiter plate were coated with the IgG fraction of the antiserum raised to immunogen A (hapten A-BSA) (Example 7), diluted in 10 mM Tris, pH8.5 (125 μl/well). The appropriate antibody coating dilution was determined using standard ELISA chequerboard techniques. The plate was incubated for 2 hours at 37° C., washed 4 times with Tris-buffered saline containing Tween 20 (TBST) and tapped dry. Standard solutions of oxycodone and its metabolites were prepared in TBST at 0, 0.5, 1, 5, 25, 100, 250 and 500 ng/ml and 50 μl of each was added to each of three wells. 75 μl of conjugate A (hapten A-HRP) (Example 10), diluted in Tris buffer containing EDTA, D-mannitol, sucrose, thimerosal and BSA, was added to each of the wells. The appropriate dilution of conjugate was also determined using standard ELISA chequerboard techniques. The plate was incubated at 37° C. for 2 hours. The excess unbound conjugate was removed by washing 6 times over a 10 minute period with TBST. 125 μl of tetramethylbenzedine (TMB) substrate solution was added to each well of the plate that was then incubated for 15 to 20 minutes in the dark at room temperature. The reaction was terminated by addition of 125 μl 0.2M H2SO4 to each well. The absorbance was then measured at 450 nm using a microtiter plate reader. The data generated in the assay are presented in Table 1.

reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | D-mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | thimerosal | CC[Hg]SC1=CC=CC=C1C(=O)[O-].[Na+]
solvent | Tris | 10 mM | C(C(CO)(CO)N)O | C4H11NO3
product | oxycodone | CN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)OC | C18H21NO4
